US07872014B2
To a solution of methyl 3-fluoro-5-hydroxy-4-(methyloxy)benzoate (3.63 g, 18.1 mmol.) in DMF (25 mL) was added cesium carbonate (8.9 g, 27.2 mmol.) followed by benzyl bromide (2.8 mL, 23.6 mmol.) and the mixture was stirred at room temperature over 12 hours. The mixture was then partitioned with ethyl ether and water and the organic phase washed with water (3×) then saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate. Filtration and concentration followed by purification of the residue by silica gel flash chromatography using 50% hexanes in chloroform as eluent afforded methyl 3-fluoro-4-(methyloxy)-5-[(phenylmethyl)oxy]benzoate (3.54 g, 67% yield) as a colorless solid after concentration of the pure fractions and drying in vacuo.

reactant | methyl 3-fluoro-5-hydroxy-4-(methyloxy)benzoate | 18.1 mmol, 3.63 g | FC=1C=C(C(=O)OC)C=C(C1OC)O | C9H9FO4
reactant | cesium carbonate | 27.2 mmol, 8.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl bromide | 23.6 mmol, 2.8 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | methyl 3-fluoro-4-(methyloxy)-5-[(phenylmethyl)oxy]benzoate | 3.54 g, 67% yield | FC=1C=C(C(=O)OC)C=C(C1OC)OCC1=CC=CC=C1 | C16H15FO4
